US09102692B2
[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-methyl-sulfanyl-1H-indol-2-yl)-methanone (23 mg, 0.057 mmol) was dissolved in trifluoroethanol (5 ml), and an aqueous solution (0.5 ml) of oxone (105 mg, 0.171 mmol) was added thereto. The mixture was stirred at room temperature under a nitrogen atmosphere for 1.75 hours. The reaction mixture was filtered, and the filtrate was concentrated. The resulting residue was purified by amino gel column chromatography (dichloromethane/methanol=99/1 to 92/8). Thus, [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-methanesulfonyl-1H-indol-2-yl)-methanone was obtained as a pale yellow solid (8 mg, 32%).

reactant | [5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-methyl-sulfanyl-1H-indol-2-yl)-methanone | 0.057 mmol, 23 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)C)S | C21H18N6OS
reactant | oxone | 0.171 mmol, 0.5 ml, 105 mg | OOS(=O)[O-].[K+]
reactant | trifluoroethanol | 5 ml | C(C(F)(F)F)O | C2H3F3O
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-methanesulfonyl-1H-indol-2-yl)-methanone | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC(=CC=C2C1)S(=O)(=O)C | C21H18N6O3S
